US06133271
Following the procedure of Example 97, the reaction of imidazole with 2,6-dichloro-4-(3,4-ethylendioxybenzylamino)-thieno-[2,3-d]-pyrimidine gives 2-(imidazol-1-yl)-6-chloro-4-(3,4-ethylendioxybenzylamino)-thieno-[2,3-d]-pyrimidine.

reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | 2,6-dichloro-4-(3,4-ethylendioxybenzylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)Cl)NCC2=CC1=C(C=C2)OCCO1 | C15H11Cl2N3O2S
product | 2-(imidazol-1-yl)-6-chloro-4-(3,4-ethylendioxybenzylamino)-thieno-[2,3-d]-pyrimidine | N1(C=NC=C1)C=1N=C(C2=C(N1)SC(=C2)Cl)NCC2=CC1=C(C=C2)OCCO1 | C18H14ClN5O2S
